US05998433
b) Synthesis of N,N-dimethyl-[6-[4-(2,3-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-[4-(2,3-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.203 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This was concentrated and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-[4-(2,3-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.203 g | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=C(C(=CC=C2)Cl)Cl)=O)=O)O1 | C24H22Cl2N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-[4-(2,3-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=C(C(=CC=C2)Cl)Cl)=O)=O)O1 | InChI=1S/C24H22Cl2N2O3.ClH/c1-27(2)13-18-12-17-10-11-28(14-21(17)31-18)24(30)16-8-6-15(7-9-16)23(29)19-4-3-5-20(25)22(19)26;/h3-9,12H,10-11,13-14H2,1-2H3;1H
